US06596734B1
(3-Benzyloxy-4-nitrophenyl)acetonitrile.
To a suspension of NaOH (68.44 g 1.71 mol, Aldrich, 20-40 mesh beads) in 171 mL of DMSO a solution of benzyl-2-nitrophenyl ether (39.23 g, 0.171 mol) and (phenylthio)acetonitrile (25.54 g, 0.171 mol, Lancaster) in 171 mL of DMSO was added dropwise for 10 min and stirred at r.t. for another 25 min. A mixture of 430 g of ice and 430 g of conc. HCl was added. The product precipitated and crystallized. The reaction mixture was cooled down in a refrigerator and filtered. The precipitate was dried on air (hood!) and recrystallized from EtOAc-hexanes. Yield 32.03 g (70%), mp 78-80° C.

reactant | NaOH | 1.71 mol, 68.44 g | [OH-].[Na+]
reactant | benzyl-2-nitrophenyl ether | 0.171 mol, 39.23 g | C(C1=CC=CC=C1)C=1C(=C(C=CC1)OC1=C(C(=CC=C1)CC1=CC=CC=C1)[N+](=O)[O-])[N+](=O)[O-] | C26H20N2O5
reactant | (phenylthio)acetonitrile | 0.171 mol, 25.54 g | C1(=CC=CC=C1)SCC#N | C8H7NS
reactant | HCl | 430 g | Cl | ClH
solvent | DMSO | 171 mL | CS(=O)C | C2H6OS
solvent | DMSO | 171 mL | CS(=O)C | C2H6OS
product | (3-Benzyloxy-4-nitrophenyl)acetonitrile | C(C1=CC=CC=C1)OC=1C=C(C=CC1[N+](=O)[O-])CC#N | C15H12N2O3
